US05538976
5-[N-(3,4-Difluorobenzyl)-N-(5-nitro-2-pyridyl)amino]pyrimidine
Starting compounds: 5-[N-(5-nitro-2-pyridyl)amino]pyrimidine and 3,4-difluorobenzyl bromide

reactant | 5-[N-(5-nitro-2-pyridyl)amino]pyrimidine | [N+](=O)([O-])C=1C=CC(=NC1)NC=1C=NC=NC1 | C9H7N5O2
reactant | 3,4-difluorobenzyl bromide | FC=1C=C(CBr)C=CC1F | C7H5BrF2
product | 5-[N-(3,4-Difluorobenzyl)-N-(5-nitro-2-pyridyl)amino]pyrimidine | FC=1C=C(CN(C2=NC=C(C=C2)[N+](=O)[O-])C=2C=NC=NC2)C=CC1F | C16H11F2N5O2
